US06235355B1
4-(5-Pentyl-1,3-dioxane-2-yl)cyclohexanecarboxylic acid methylester 28.2 g (94.5 mmol) was added in ethanol 100 ml, and cooled to 7° C., and 2N-sodium hydroxide 70 ml was added dropwise. The mixture was heated to room temperature, and stirred for one hour, and 2N-sodium hydroxide 70 ml was added dropwise. After st g the mixture father one hour at room temperature, 2N-sodium hydroxide 50 ml was added dropwise, and the mixture was stirred further one hour at room temperature. 6N-Hydrochloric acid 65 ml was added to the reactant, and the product was extracted with diethylether. The extract was washed with water, a saturated sodium bicarbonate aqueous solution and then water, and dried over magnesium sulfate, and the solvent was distilled off. The residue 27.3 g was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=1/1), and recrystallized from a mixed solvent of heptane/ethanol =20/1 to obtain 4-(5-pentyl-1,3-dioxane-2-yl)cyclohexanecarboxylic acid 2.3 g (8.1 mmol). The yield was 8.6% from 4-(5-pentyl-1,3-dioxane-2-yl)cyclohexane carboxylic acid methylester.

reactant | 4-(5-Pentyl-1,3-dioxane-2-yl)cyclohexanecarboxylic acid methylester | 94.5 mmol, 28.2 g | COC(=O)C1CCC(CC1)C1OCC(CO1)CCCCC | C17H30O4
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 65 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(5-pentyl-1,3-dioxane-2-yl)cyclohexanecarboxylic acid | 8.1 mmol, 2.3 g, yield was 8.6% | C(CCCC)C1COC(OC1)C1CCC(CC1)C(=O)O | C16H28O4
